US07799775B2
In a mixture of 5 ml of acetic acid with 2 ml of water 60 mg of 3-amino-7-tert-butoxycarbonyl-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-5,6,7,8-tetrahydro-3H-pyrido[4′3′:4,5]thieno[2,3-d]pyrimidin-4-one was dissolved, and into the solution, a solution of 10 mg of sodium nitrite in 2 ml of water was dropped under cooling with ice. After 30 minutes' stirring, the reaction mixture was neutralized with saturated aqueous sodium hydrogencarbonate solution, and the resulting precipitate was extracted with chloroform, washed with water and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, the residue was purified on silica gel column chromatography to provide 52 mg (99%) of 7-acetyl-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-5,6,7,8-tetrahydro-3H-pyrido[4′3′:4,5]thieno-[2,3-d]pyrimidin-4-one.

reactant | 3-amino-7-tert-butoxycarbonyl-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-5,6,7,8-tetrahydro-3H-pyrido[4′3′:4,5]thieno[2,3-d]pyrimidin-4-one | NN1C(=NC2=C(C1=O)C1=C(S2)CN(CC1)C(=O)OC(C)(C)C)CCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C31H39N7O3S
reactant | sodium nitrite | 10 mg | N(=O)[O-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 2 ml | O | H2O
solvent | water | 2 ml, 60 mg | O | H2O
product | 7-acetyl-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-5,6,7,8-tetrahydro-3H-pyrido[4′3′:4,5]thieno-[2,3-d]pyrimidin-4-one | 52 mg, 99% | C(C)(=O)N1CC2=C(C3=C(N=C(NC3=O)CCCCN3CCN(CC3)C3=NC4=CC=CC=C4C=C3)S2)CC1 | C28H32N6O2S
